US04137313
2,5-Dihydro-2,5-dimethyl-4-hydroxy-N-phenyl-1,2-thiazino [5,6-b]-indole-3-carboxamide-1,1-dioxide was prepared analogous to Example 9 from methyl 2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate-1,1-dioxide and aniline in toluene; M.p.: 269°-270° C. (decomposition);

reactant | methyl 2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate-1,1-dioxide | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)OC)O)(=O)=O | C14H14N2O5S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5-Dihydro-2,5-dimethyl-4-hydroxy-N-phenyl-1,2-thiazino [5,6-b]-indole-3-carboxamide-1,1-dioxide | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)NC1=CC=CC=C1)O)(=O)=O | C19H17N3O4S
